US04423214
t-Butoxy-bis dimethylaminomethane (1.9 cc) is added, whilst stirring, to a solution, at 80° C., under nitrogen, of the syn isomer of 2-benzhydryloxycarbonyl-7-{2-[(2-t-butoxycarbonylprop-2-yl)-oxyimino]-2-(2-tritylaminothiazol-4-yl)-acetamido}-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (6 g.) in dimethylformamide (64 cc), and the reaction is continued for 15 minutes. The mixture is then poured into a mixture of ethyl acetate (200 cc) and water (200 cc). The organic phase is decanted, washed with water (3×100 cc) and a saturated aqueous solution of sodium chloride (100 cc), dried over sodium sulphate and filtered and the filtrate is concentrated to dryness at 20° C. under 20 mm Hg (2.7 kPa). This yields crude E form of the syn isomer of 2-benzhydryloxycarbonyl-3-(2-dimethylaminovinyl)-7-{2-(2-t-butoxycarbonylprop-2-yl-oxyimino)-2-(2-tritylaminothiazol-4-yl)-acetamido}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct- 2-ene (6.5 g) in the form of a hard brown foam.

reactant | t-Butoxy-bis dimethylaminomethane | 1.9 cc | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | 2-benzhydryloxycarbonyl-7-{2-[(2-t-butoxycarbonylprop-2-yl)-oxyimino]-2-(2-tritylaminothiazol-4-yl)-acetamido}-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC(C)(C)C(=O)OC(C)(C)C)=O)=O | C53H51N5O7S2
reactant | ethyl acetate | 200 cc | C(C)(=O)OCC | C4H8O2
reactant | water | 200 cc | O | H2O
solvent | dimethylformamide | 64 cc | CN(C=O)C | C3H7NO
product | 2-benzhydryloxycarbonyl-3-(2-dimethylaminovinyl)-7-{2-(2-t-butoxycarbonylprop-2-yl-oxyimino)-2-(2-tritylaminothiazol-4-yl)-acetamido}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct- 2-ene | 6.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=CN(C)C)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC(C)(C)C(=O)OC(C)(C)C)=O)=O | C56H56N6O7S2
